US07544835B2
3-(3-{2-[(3-Chlorophenyl)carbamoyloxy]ethyl}-4-ethoxyphenyl)-2-isopropoxypropanoic acid
Using ethyl 3-[4-ethoxy-3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and 3-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[4-ethoxy-3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | C(C)OC1=C(C=C(C=C1)CC(C(=O)OCC)OC(C)C)CCO | C18H28O5
reactant | 3-chlorophenylisocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
product | 3-(3-{2-[(3-Chlorophenyl)carbamoyloxy]ethyl}-4-ethoxyphenyl)-2-isopropoxypropanoic acid | ClC=1C=C(C=CC1)NC(=O)OCCC=1C=C(C=CC1OCC)CC(C(=O)O)OC(C)C | C23H28ClNO6
